US07812160B2
A mixture of methyl {4,6-dichloro-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate (0.100 g, 0.21 mmol), pyrrolidine (0.019 mL, 0.23 mmol), and N,N-diisopropylethylamine (0.109 mL, 0.62 mmol) in anhydrous DMF (2 mL) was stirred at 80° C. for 5 hours. After cooling to room temperature, the solvent was evaporated and the remaining residue dissolved in EtOAc. This organic solution was sequentially washed with 1N HCl, water, and brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. Purification by preparative TLC then afforded methyl {4-chloro-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}-acetate (0.100 g, 95% yield) as a white powder.

reactant | methyl {4,6-dichloro-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate | 0.21 mmol, 0.100 g | ClC1=NC(=NC(=C1CC(=O)OC)Cl)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C25H19Cl2N3O3
reactant | pyrrolidine | 0.23 mmol, 0.019 mL | N1CCCC1 | C4H9N
reactant | N,N-diisopropylethylamine | 0.62 mmol, 0.109 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl {4-chloro-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}-acetate | 0.100 g, 95% yield | ClC1=NC(=NC(=C1CC(=O)OC)N1CCCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C29H27ClN4O3
